US08541588B2
4-[4-chloro-5-fluoro-2-(1H-pyrazol-4-yl)phenoxy]-3-cyano-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
To a solution of tert-butyl 4-[5-chloro-2-(2-cyano-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}phenoxy)-4-fluorophenyl]-1H-pyrazole-1-carboxylate (Preparation 728, 190 mg, 0.26 mmol) in dichloromethane (5 mL) was added trifluoroacetic acid (0.3 mL, 3.65 mmol) and the reaction mixture was left to stir at room temperature for 16 hours. The reaction was quenched by addition of water (10 mL) and the resulting mixture left to stir for 20 minutes. Then the layers were separated, the organic phase was washed with saturated aqueous sodium chloride solution (5 mL), dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo. The crude oil was purified using ISCO™ (5 g cartridge) 1-20% v/v gradient of methanol in dichloromethane as the eluent. The title compound was obtained as a white solid (61 mg. 50%).

reactant | tert-butyl 4-[5-chloro-2-(2-cyano-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}phenoxy)-4-fluorophenyl]-1H-pyrazole-1-carboxylate | 0.26 mmol, 190 mg | ClC=1C(=CC(=C(C1)C=1C=NN(C1)C(=O)OC(C)(C)C)OC1=C(C=C(C=C1)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C#N)F | C32H28ClFN6O7S2
reactant | trifluoroacetic acid | 3.65 mmol, 0.3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-[4-chloro-5-fluoro-2-(1H-pyrazol-4-yl)phenoxy]-3-cyano-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | ClC1=CC(=C(OC2=C(C=C(C=C2)S(=O)(=O)NC2=NC=NS2)C#N)C=C1F)C=1C=NNC1 | C18H10ClFN6O3S2
